US06794400B2
4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-(pyrrol-2-ylmethylidene)thiosemicarbazide
The title compound was prepared from a mixture of N1-bicyclo[2.2.1]hept-5-en-2-ylhydrazine-1-carbothioamide (100 mg, 0.56 mmol) and pyrrole-2-carboxaldehyde (53 mg, 0.56 mmol) similar to Example 3 and isolated as a yellow oil (3 mg, 2%). 1H NMR (CDCl3): 9.28 (s, 1H), 8.99 (s, 1H), 7.68 (s, 1H), 7.22 (d, J=7.8 Hz, 1H), 6.94 (s, 1H), 6.53-6.51 (m, 1H), 6.29-6.26 (m, 1H), 6.22-6.13 (m, 2H), 4.30-4.24 (m, 1H), 3.04 (s, 1H), 2.94 (s, 1H), 1.92-1.84 (m, 1H), 1.65 (d, J=9.0 Hz, 1H), 1.50 (d, J=9.0 Hz, 1H), 1.45-1.38 (m, 1H).

reactant | N1-bicyclo[2.2.1]hept-5-en-2-ylhydrazine-1-carbothioamide | 0.56 mmol, 100 mg | C12C(CC(C=C1)C2)NC(=S)NN | C8H13N3S
reactant | pyrrole-2-carboxaldehyde | 0.56 mmol, 53 mg | N1C(=CC=C1)C=O | C5H5NO
product | 4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-(pyrrol-2-ylmethylidene)thiosemicarbazide | C12C(CC(C=C1)C2)NC(NN=CC=2NC=CC2)=S | C13H16N4S
